US09402841B2
Step E: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a mixture of (S)-3-(8-chloro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride (100 mg, 0.3 mmol) in DCM (20 mL) was added 2,6-dimethylpyridine (97 mg, 0.91 mmol). The resulting mixture was cooled to −40° C. Acryloyl chloride (51 mg, 0.6 mmol, 10 mg/mL in dry DCM) was added dropwise and the mixture was stirred at −40° C. for 30 minutes. The reaction was subsequently quenched with MeOH (5 mL) and the mixture was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (57 mg, 52%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.91 (s, 1H), 11.80 (s, 1H), 7.85-7.83 (m, 1H), 7.61-7.59 (m, 3H), 7.49-7.47 (m, 1H), 6.6-6.5 (m, 1H), 6.17-6.13 (m, 1H), 5.67-5.63 (m, 1H), 5.18-5.16 (m, 1H), 4.18-4.17 (m, 0.5H), 3.69-3.65 (m, 0.5H), 3.42 (m, 0.5H), 3.32-3.31 (m, 1.5H), 2.31-2.29 (m, 1H), 2.04-2.01 (m, 1H); ESI-MS m/z [M+H]+ 385.1.

reactant | (S)-3-(8-chloro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride | 0.3 mmol, 100 mg | Cl.ClC=1C=CC=C2C=C(N=C(C12)N[C@@H]1CNCC1)C1=NNC(N1)=O
reactant | 2,6-dimethylpyridine | 0.91 mmol, 97 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 0.6 mmol, 51 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 57 mg, 52% | C(C=C)(=O)N1C[C@H](CC1)NC1=NC(=CC2=CC=CC(=C12)Cl)C1=NNC(N1)=O | C18H17ClN6O2
